US04582857
(a) 3-(4'-ethylphenyl)-1,2-epoxypropane
A Grignard solution freshly prepared from 12.15 g (0.50 g atom) magnesium chips and 92.5 g (0.50 mole) 1-bromo-4-ethylbenzene in 400 ml dry ether is dripped with agitation into a precooled solution of 92.5 g (1.00 mole) of epichlorohydrin in 100 ml of dry ether, so that the temperature does not exceed -40° C. After addition is complete, the solution is heated slowly to 20° C. and is hydrolyzed after another three hours by the addition of ice water and dilute hydrochloric acid. The ether phase is separated, washed twice with water and dried over sodium sulfate. Following the removal of the ether, the bath temperature is raised to 70° C. and the volatile components carefully removed at 0.1 mbar. The residue is taken up in 185 ml of methanol and a freshly prepared solution of 6.90 g (0.30 g atom) sodium in methanol added at room temperature. After three hours the sodium chloride precipitate is separated, the filtrate concentrated in vacuum and the yellow, oily residue used without purification for further conversion.

reactant | magnesium | 12.15 g | [Mg] | Mg
reactant | 1-bromo-4-ethylbenzene | 0.50 mole, 92.5 g | BrC1=CC=C(C=C1)CC | C8H9Br
reactant | epichlorohydrin | 1.00 mole, 92.5 g | C(Cl)C1CO1 | C3H5ClO
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 3-(4'-ethylphenyl)-1,2-epoxypropane | C(C)C1=CC=C(C=C1)CC1CO1 | C11H14O
